US05883093
Step 1: 3-fluoro-4-(3-hydroxy-1-azetidinyl)nitrobenzene
1-(Diphenylmethyl)-3-azetidinol hydrochloride (2.000 g, 7.29 mmol) was dissolved in methanol (75 mL) and treated with 6N HCl (1.20 mL, 7.29 mmol). Palladium hydroxide on carbon (0.200 g) was then added under a nitrogen stream. The reaction mixture was then shaken on a Parr apparatus under 40 psi of H2. After 16 h, TLC analysis (5% methanol/chloroform) revealed the starting material was consumed. The reaction mixture was filtered through Celite® and concentrated under reduced pressure to an amber oil. This material was dissolved in dimethylsulfoxide (29 mL) and the atmosphere replaced with nitrogen. Dipotassium hydrogen phosphate (5.07 g, 29.2 mmol) was added followed by 3,4-difluoronitrobenzene (0.966 mL, 8.75 mmol). The mixture was stirred at ambient temperature under nitrogen. After 3 h, TLC analysis (5% methanol/chloroform) revealed the reaction to be complete. The reaction mixture was diluted with water (250 mL) and extracted with chloroform (4×50 mL). The combined organic extracts were washed with water (2×50 mL) and brine, dried over sodium sulfate, filtered and concentrated in vacuo to give a yellow solid. Chromatography over silica gel (100 g), eluting with a gradient of 3-7% acetonitrile/chloroform afforded, after concentration of appropriate fractions, 1.00 g (65%) of the title compound as an orange solid with mp 130.5°-132° C. and MS(EI) 212 (M+).

reactant | 1-(Diphenylmethyl)-3-azetidinol hydrochloride | 7.29 mmol, 2.000 g | Cl.C1(=CC=CC=C1)C(N1CC(C1)O)C1=CC=CC=C1
reactant | HCl | 7.29 mmol, 6N, 1.20 mL | Cl | ClH
reactant | Dipotassium hydrogen phosphate | 29.2 mmol, 5.07 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | 3,4-difluoronitrobenzene | 8.75 mmol, 0.966 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | methanol | 75 mL | CO | CH4O
solvent | water | 250 mL | O | H2O
catalyst | Palladium hydroxide on carbon | 0.200 g | [OH-].[OH-].[Pd+2]
solvent | methanol chloroform | CO.C(Cl)(Cl)Cl
product | 3-fluoro-4-(3-hydroxy-1-azetidinyl)nitrobenzene | 1.00 g, 65% | FC=1C=C(C=CC1N1CC(C1)O)[N+](=O)[O-] | C9H9FN2O3
